US08541411B2
b) 1-[2-methyl-6-(4-morpholinyl)-1-(1-naphthalenylmethyl)-1H-benzimidazol-4-yl]ethanone
To a solution of N,2-dimethyl-N-(methyloxy)-6-(4-morpholinyl)-1-(1-naphthalenylmethyl)-1H-benzimidazole-4-carboxamide (82 mg, 0.184 mmol) in Tetrahydrofuran (THF) (10 mL) was added a 3.0 M solution of methylmagnesium chloride (0.123 mL, 0.369 mmol) in THF at 0° C. The resulting reaction mixture was stirred at 0° C. for 2 h and then quenched very carefully with saturated aqueous ammonium chloride. The mixture was diluted with ethyl acetate (50 mL) and the aqueous phase was extracted with ethyl acetate (50 mL×2). The combined organic phases were washed with brine (50 mL), dried over (MgSO4), and filtered. The solution was concentrated under reduced pressure. The crude product was purified on a silica column (40˜60% EtOAc/Hexane) to give the product (46 mg, 59%). 1H NMR (400 MHz, DMSO-d6) δ ppm 2.47 (s, 3H), 3.00 (s, 3H), 3.02-3.10 (m, 4H), 3.59-3.73 (m, 4H), 6.06 (s, 2H), 6.33 (d, J=6.82 Hz, 1H), 7.21-7.42 (m, 3H), 7.52-7.76 (m, 2H), 7.86 (d, J=8.34 Hz, 1H), 8.02 (d, J=7.33 Hz, 1H), 8.25 (d, 1H). MS (ES+) m/e 399.9[M+H]+.

reactant | N,2-dimethyl-N-(methyloxy)-6-(4-morpholinyl)-1-(1-naphthalenylmethyl)-1H-benzimidazole-4-carboxamide | 0.184 mmol, 82 mg | CN(C(=O)C1=CC(=CC=2N(C(=NC21)C)CC2=CC=CC1=CC=CC=C21)N2CCOCC2)OC | C26H28N4O3
reactant | methylmagnesium chloride | 0.369 mmol, 0.123 mL | C[Mg]Cl
solvent | Tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 1-[2-methyl-6-(4-morpholinyl)-1-(1-naphthalenylmethyl)-1H-benzimidazol-4-yl]ethanone | 46 mg, 59% | CC1=NC2=C(N1CC1=CC=CC3=CC=CC=C13)C=C(C=C2C(C)=O)N2CCOCC2 | C25H25N3O2
